US04584394
Preparation of Allyltribenzoyloxysilane
878 g (5 moles) of allyltrichlorosilane and 1000 ml of hexane are placed in the apparatus of Example 1. The reaction with 1855 g of benzoic acid (=15.2 mol) is performed as described in Example 1, as is also the distilling of the raw product. At a pressure of 0.4 mbar and a head temperature of 137° C., 1599 g (3.7 mol) of a colorless liquid is distilled out, which several days later transforms to a sticky-crystalline state. The yield of 74%.

reactant | allyltrichlorosilane | 5 moles, 878 g | C(C=C)[Si](Cl)(Cl)Cl | C3H5Cl3Si
reactant | benzoic acid | 15.2 mol, 1855 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | hexane | 1000 ml | CCCCCC | C6H14
product | Allyltribenzoyloxysilane | yield of 74% | C(C=C)[Si](OC(C1=CC=CC=C1)=O)(OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C24H20O6Si
